** sch_path: /home/tim/gits/chipalooza_projects_redef/dependencies/sky130_vbl_ip__overvoltage/xschem/sky130_vbl_ip__overvoltage.sch
**.subckt sky130_vbl_ip__overvoltage ovout vtrip[0] dvss avss avdd dvdd ibias vbg ena vtrip[3] vtrip[2] vtrip[1]
*.PININFO avdd:B dvdd:B ena:I avss:B vtrip[3]:I ovout:O vbg:I vtrip[2]:I vtrip[1]:I vtrip[0]:I ibias:I dvss:B
x1 dvdd ovout vbg net17 ena ibias dvss comp_hyst
x2 net2 net3 net4 net5 net6 net7 net8 avdd avss net9 A NotA B NotB C net17 NotC D NotD net1 net10 net11 net12 net13 net14 net15
+ net16 ov_multiplexer
x3 avdd net2 net3 net4 net5 net6 net7 net8 net9 net1 net10 net11 net12 net13 net14 net15 net16 avss ena ov_voltage_divider
x4 avdd dvdd vtrip[3] A NotA avss dvss ov_level_shifter
x5 avdd dvdd vtrip[2] B NotB avss dvss ov_level_shifter
x6 avdd dvdd vtrip[1] C NotC avss dvss ov_level_shifter
x7 avdd dvdd vtrip[0] D NotD avss dvss ov_level_shifter
**.ends

* expanding   symbol:  comp_hyst.sym # of pins=7
** sym_path: /home/tim/gits/chipalooza_projects_redef/dependencies/sky130_vbl_ip__overvoltage/xschem/comp_hyst.sym
** sch_path: /home/tim/gits/chipalooza_projects_redef/dependencies/sky130_vbl_ip__overvoltage/xschem/comp_hyst.sch
.subckt comp_hyst dvdd out vref vin ena ibias dvss
*.PININFO dvdd:B vref:I vin:I out:O ibias:I ena:I dvss:B
XM5[0] net3 net4 dvdd dvdd sky130_fd_pr__pfet_01v8 L=8 W=1 nf=1 m=1
XM5[1] net3 net4 dvdd dvdd sky130_fd_pr__pfet_01v8 L=8 W=1 nf=1 m=1
XM3[0] net4 net4 dvdd dvdd sky130_fd_pr__pfet_01v8 L=8 W=1 nf=1 m=1
XM3[1] net4 net4 dvdd dvdd sky130_fd_pr__pfet_01v8 L=8 W=1 nf=1 m=1
XM7 net2 net4 dvdd dvdd sky130_fd_pr__pfet_01v8 L=8 W=1 nf=1 m=1
XM4[0] net3 net3 dvdd dvdd sky130_fd_pr__pfet_01v8 L=16 W=1 nf=1 m=1
XM4[1] net3 net3 dvdd dvdd sky130_fd_pr__pfet_01v8 L=16 W=1 nf=1 m=1
XM11 net5 net5 dvss dvss sky130_fd_pr__nfet_01v8 L=20 W=1 nf=1 m=1
XM12 net1 net5 dvss dvss sky130_fd_pr__nfet_01v8 L=20 W=1 nf=1 m=1
XM9 out net3 dvdd dvdd sky130_fd_pr__pfet_01v8 L=1 W=3 nf=1 m=1
XM10 out net2 dvss dvss sky130_fd_pr__nfet_01v8 L=1 W=3 nf=1 m=1
XM17 out ena_b dvss dvss sky130_fd_pr__nfet_01v8 L=3 W=1 nf=1 m=1
XM1[0] net4 vref net1 dvss sky130_fd_pr__nfet_g5v0d10v5 L=8 W=1.3 nf=1 m=1
XM1[1] net4 vref net1 dvss sky130_fd_pr__nfet_g5v0d10v5 L=8 W=1.3 nf=1 m=1
XM2[0] net3 vin net1 dvss sky130_fd_pr__nfet_g5v0d10v5 L=8 W=1.3 nf=1 m=1
XM2[1] net3 vin net1 dvss sky130_fd_pr__nfet_g5v0d10v5 L=8 W=1.3 nf=1 m=1
XM13 net5 ena_b dvss dvss sky130_fd_pr__nfet_01v8 L=3 W=1 nf=1 m=1
XM6[0] net4 net3 dvdd dvdd sky130_fd_pr__pfet_01v8 L=16 W=1 nf=1 m=1
XM6[1] net4 net3 dvdd dvdd sky130_fd_pr__pfet_01v8 L=16 W=1 nf=1 m=1
XM6[2] net4 net3 dvdd dvdd sky130_fd_pr__pfet_01v8 L=16 W=1 nf=1 m=1
XM6[3] net4 net3 dvdd dvdd sky130_fd_pr__pfet_01v8 L=16 W=1 nf=1 m=1
XM8 net2 net2 dvss dvss sky130_fd_pr__nfet_01v8 L=8 W=1 nf=1 m=1
XM16 net3 ena dvdd dvdd sky130_fd_pr__pfet_01v8 L=3 W=1 nf=1 m=1
XM15 net4 ena dvdd dvdd sky130_fd_pr__pfet_01v8 L=3 W=1 nf=1 m=1
XM14 net2 ena_b dvss dvss sky130_fd_pr__nfet_01v8 L=3 W=1 nf=1 m=1
XM18 ena_b ena dvdd dvdd sky130_fd_pr__pfet_01v8 L=3 W=1 nf=1 m=1
XM19 ena_b ena dvss dvss sky130_fd_pr__nfet_01v8 L=3 W=1 nf=1 m=1
x1 ibias ena_b ena dvdd dvss net5 trans_gate
XMD16[0] dvdd dvdd dvdd dvdd sky130_fd_pr__pfet_01v8 L=16 W=1 nf=1 m=1
XMD16[1] dvdd dvdd dvdd dvdd sky130_fd_pr__pfet_01v8 L=16 W=1 nf=1 m=1
XMD16[2] dvdd dvdd dvdd dvdd sky130_fd_pr__pfet_01v8 L=16 W=1 nf=1 m=1
XMD16[3] dvdd dvdd dvdd dvdd sky130_fd_pr__pfet_01v8 L=16 W=1 nf=1 m=1
XMD16[4] dvdd dvdd dvdd dvdd sky130_fd_pr__pfet_01v8 L=16 W=1 nf=1 m=1
XMD16[5] dvdd dvdd dvdd dvdd sky130_fd_pr__pfet_01v8 L=16 W=1 nf=1 m=1
XMD8[0] dvdd dvdd dvdd dvdd sky130_fd_pr__pfet_01v8 L=8 W=1 nf=1 m=1
XMD8[1] dvdd dvdd dvdd dvdd sky130_fd_pr__pfet_01v8 L=8 W=1 nf=1 m=1
XMD1[0] dvdd dvdd dvdd dvdd sky130_fd_pr__pfet_01v8 L=1 W=1 nf=1 m=1
XMD1[1] dvdd dvdd dvdd dvdd sky130_fd_pr__pfet_01v8 L=1 W=1 nf=1 m=1
XMD1[2] dvdd dvdd dvdd dvdd sky130_fd_pr__pfet_01v8 L=1 W=1 nf=1 m=1
XMD1[3] dvdd dvdd dvdd dvdd sky130_fd_pr__pfet_01v8 L=1 W=1 nf=1 m=1
XMD1[4] dvdd dvdd dvdd dvdd sky130_fd_pr__pfet_01v8 L=1 W=1 nf=1 m=1
XMD1[5] dvdd dvdd dvdd dvdd sky130_fd_pr__pfet_01v8 L=1 W=1 nf=1 m=1
XMD1[6] dvdd dvdd dvdd dvdd sky130_fd_pr__pfet_01v8 L=1 W=1 nf=1 m=1
XMD1[7] dvdd dvdd dvdd dvdd sky130_fd_pr__pfet_01v8 L=1 W=1 nf=1 m=1
XMD1[8] dvdd dvdd dvdd dvdd sky130_fd_pr__pfet_01v8 L=1 W=1 nf=1 m=1
XMD1[9] dvdd dvdd dvdd dvdd sky130_fd_pr__pfet_01v8 L=1 W=1 nf=1 m=1
XMD1[10] dvdd dvdd dvdd dvdd sky130_fd_pr__pfet_01v8 L=1 W=1 nf=1 m=1
XMD1[11] dvdd dvdd dvdd dvdd sky130_fd_pr__pfet_01v8 L=1 W=1 nf=1 m=1
XMD1[12] dvdd dvdd dvdd dvdd sky130_fd_pr__pfet_01v8 L=1 W=1 nf=1 m=1
XMD1[13] dvdd dvdd dvdd dvdd sky130_fd_pr__pfet_01v8 L=1 W=1 nf=1 m=1
XMD1[14] dvdd dvdd dvdd dvdd sky130_fd_pr__pfet_01v8 L=1 W=1 nf=1 m=1
XMD1[15] dvdd dvdd dvdd dvdd sky130_fd_pr__pfet_01v8 L=1 W=1 nf=1 m=1
XMD1[16] dvdd dvdd dvdd dvdd sky130_fd_pr__pfet_01v8 L=1 W=1 nf=1 m=1
XMD1[17] dvdd dvdd dvdd dvdd sky130_fd_pr__pfet_01v8 L=1 W=1 nf=1 m=1
XMD1[18] dvdd dvdd dvdd dvdd sky130_fd_pr__pfet_01v8 L=1 W=1 nf=1 m=1
XMD1[19] dvdd dvdd dvdd dvdd sky130_fd_pr__pfet_01v8 L=1 W=1 nf=1 m=1
XMDN8[0] dvss dvss dvss dvss sky130_fd_pr__nfet_g5v0d10v5 L=8 W=1 nf=1 m=1
XMDN8[1] dvss dvss dvss dvss sky130_fd_pr__nfet_g5v0d10v5 L=8 W=1 nf=1 m=1
XMDN1[0] dvss dvss dvss dvss sky130_fd_pr__nfet_g5v0d10v5 L=1 W=1 nf=1 m=1
XMDN1[1] dvss dvss dvss dvss sky130_fd_pr__nfet_g5v0d10v5 L=1 W=1 nf=1 m=1
XMDN1[2] dvss dvss dvss dvss sky130_fd_pr__nfet_g5v0d10v5 L=1 W=1 nf=1 m=1
XMDN1[3] dvss dvss dvss dvss sky130_fd_pr__nfet_g5v0d10v5 L=1 W=1 nf=1 m=1
XMDN2[0] dvss dvss dvss dvss sky130_fd_pr__nfet_g5v0d10v5 L=1 W=1.3 nf=1 m=1
XMDN2[1] dvss dvss dvss dvss sky130_fd_pr__nfet_g5v0d10v5 L=1 W=1.3 nf=1 m=1
XMDN2[2] dvss dvss dvss dvss sky130_fd_pr__nfet_g5v0d10v5 L=1 W=1.3 nf=1 m=1
XMDN2[3] dvss dvss dvss dvss sky130_fd_pr__nfet_g5v0d10v5 L=1 W=1.3 nf=1 m=1
XMDN2[4] dvss dvss dvss dvss sky130_fd_pr__nfet_g5v0d10v5 L=1 W=1.3 nf=1 m=1
XMDN2[5] dvss dvss dvss dvss sky130_fd_pr__nfet_g5v0d10v5 L=1 W=1.3 nf=1 m=1
XMDN2[6] dvss dvss dvss dvss sky130_fd_pr__nfet_g5v0d10v5 L=1 W=1.3 nf=1 m=1
XMDN2[7] dvss dvss dvss dvss sky130_fd_pr__nfet_g5v0d10v5 L=1 W=1.3 nf=1 m=1
XD3 dvss vin sky130_fd_pr__diode_pw2nd_05v5 area=0.315e12 perim=4e6
XD1 dvss vref sky130_fd_pr__diode_pw2nd_05v5 area=0.315e12 perim=4e6
XD2 dvss ena sky130_fd_pr__diode_pw2nd_05v5 area=0.315e12 perim=4e6
.ends


* expanding   symbol:  ov_multiplexer.sym # of pins=27
** sym_path: /home/tim/gits/chipalooza_projects_redef/dependencies/sky130_vbl_ip__overvoltage/xschem/ov_multiplexer.sym
** sch_path: /home/tim/gits/chipalooza_projects_redef/dependencies/sky130_vbl_ip__overvoltage/xschem/ov_multiplexer.sch
.subckt ov_multiplexer in_0000 in_0001 in_0010 in_0011 in_0100 in_0101 in_0110 avdd vss in_0111 vtrip_3 vtrip_3_b vtrip_2
+ vtrip_2_b vtrip_1 out vtrip_1_b vtrip_0 vtrip_0_b in_1000 in_1001 in_1010 in_1011 in_1100 in_1101 in_1110 in_1111
*.PININFO in_0000:I in_0001:I in_0010:I in_0011:I in_0100:I in_0101:I in_0110:I in_0111:I in_1000:I in_1001:I in_1010:I in_1011:I
*+ in_1110:I in_1111:I in_1100:I in_1101:I out:O vtrip_3:I vtrip_3_b:I vtrip_2:I vtrip_2_b:I vtrip_1:I vtrip_1_b:I vtrip_0:I vtrip_0_b:I
*+ avdd:B vss:B
x1 net5 vtrip_3 vtrip_3_b avdd vss out trans_gate_mux
x2 net6 vtrip_3_b vtrip_3 avdd vss out trans_gate_mux
x3 net2 vtrip_2 vtrip_2_b avdd vss net6 trans_gate_mux
x4 net4 vtrip_2_b vtrip_2 avdd vss net5 trans_gate_mux
x5 net3 vtrip_2_b vtrip_2 avdd vss net6 trans_gate_mux
x6 net1 vtrip_2 vtrip_2_b avdd vss net5 trans_gate_mux
x7 net7 vtrip_1 vtrip_1_b avdd vss net1 trans_gate_mux
x8 net8 vtrip_1_b vtrip_1 avdd vss net1 trans_gate_mux
x9 net9 vtrip_1 vtrip_1_b avdd vss net4 trans_gate_mux
x10 net10 vtrip_1_b vtrip_1 avdd vss net4 trans_gate_mux
x11 net11 vtrip_1 vtrip_1_b avdd vss net2 trans_gate_mux
x12 net12 vtrip_1_b vtrip_1 avdd vss net2 trans_gate_mux
x13 net13 vtrip_1 vtrip_1_b avdd vss net3 trans_gate_mux
x14 net14 vtrip_1_b vtrip_1 avdd vss net3 trans_gate_mux
x15 in_0000 vtrip_0 vtrip_0_b avdd vss net7 trans_gate_mux
x16 in_0001 vtrip_0_b vtrip_0 avdd vss net7 trans_gate_mux
x17 in_0010 vtrip_0 vtrip_0_b avdd vss net8 trans_gate_mux
x18 in_0011 vtrip_0_b vtrip_0 avdd vss net8 trans_gate_mux
x19 in_0100 vtrip_0 vtrip_0_b avdd vss net9 trans_gate_mux
x20 in_0101 vtrip_0_b vtrip_0 avdd vss net9 trans_gate_mux
x21 in_0110 vtrip_0 vtrip_0_b avdd vss net10 trans_gate_mux
x22 in_0111 vtrip_0_b vtrip_0 avdd vss net10 trans_gate_mux
x23 in_1000 vtrip_0 vtrip_0_b avdd vss net11 trans_gate_mux
x24 in_1001 vtrip_0_b vtrip_0 avdd vss net11 trans_gate_mux
x25 in_1010 vtrip_0 vtrip_0_b avdd vss net12 trans_gate_mux
x26 in_1011 vtrip_0_b vtrip_0 avdd vss net12 trans_gate_mux
x27 in_1100 vtrip_0 vtrip_0_b avdd vss net13 trans_gate_mux
x28 in_1101 vtrip_0_b vtrip_0 avdd vss net13 trans_gate_mux
x29 in_1110 vtrip_0 vtrip_0_b avdd vss net14 trans_gate_mux
x30 in_1111 vtrip_0_b vtrip_0 avdd vss net14 trans_gate_mux
XD1 vss vtrip_0 sky130_fd_pr__diode_pw2nd_05v5 area=3.15e11 perim=4e6
XD2 vss vtrip_0 sky130_fd_pr__diode_pw2nd_05v5 area=3.15e11 perim=4e6
XD3 vss vtrip_0_b sky130_fd_pr__diode_pw2nd_05v5 area=3.15e11 perim=4e6
XD4 vss vtrip_0_b sky130_fd_pr__diode_pw2nd_05v5 area=3.15e11 perim=4e6
XD5 vss vtrip_1 sky130_fd_pr__diode_pw2nd_05v5 area=3.15e11 perim=4e6
XD6 vss vtrip_1 sky130_fd_pr__diode_pw2nd_05v5 area=3.15e11 perim=4e6
XD7 vss vtrip_1_b sky130_fd_pr__diode_pw2nd_05v5 area=3.15e11 perim=4e6
XD8 vss vtrip_1_b sky130_fd_pr__diode_pw2nd_05v5 area=3.15e11 perim=4e6
XD9 vss vtrip_2 sky130_fd_pr__diode_pw2nd_05v5 area=3.15e11 perim=4e6
XD11 vss vtrip_2_b sky130_fd_pr__diode_pw2nd_05v5 area=3.15e11 perim=4e6
XD10 vss vtrip_3 sky130_fd_pr__diode_pw2nd_05v5 area=3.15e11 perim=4e6
XD12 vss vtrip_3_b sky130_fd_pr__diode_pw2nd_05v5 area=3.15e11 perim=4e6
.ends


* expanding   symbol:  ov_voltage_divider.sym # of pins=19
** sym_path: /home/tim/gits/chipalooza_projects_redef/dependencies/sky130_vbl_ip__overvoltage/xschem/ov_voltage_divider.sym
** sch_path: /home/tim/gits/chipalooza_projects_redef/dependencies/sky130_vbl_ip__overvoltage/xschem/ov_voltage_divider.sch
.subckt ov_voltage_divider avdd out_0000 out_0001 out_0010 out_0011 out_0100 out_0101 out_0110 out_0111 out_1000 out_1001 out_1010
+ out_1011 out_1100 out_1101 out_1110 out_1111 avss ena
*.PININFO ena:I avss:B avdd:B out_1111:O out_1110:O out_1101:O out_1100:O out_1011:O out_1010:O out_1001:O out_1000:O out_0111:O
*+ out_0110:O out_0101:O out_0100:O out_0011:O out_0010:O out_0001:O out_0000:O
XM1 res[0] ena avss avss sky130_fd_pr__nfet_g5v0d10v5 L=3 W=3 nf=1 m=1
XRA[28] res[28] res[29] avss sky130_fd_pr__res_xhigh_po_1p41 L=14.1 mult=1 m=1
XRA[27] res[27] res[28] avss sky130_fd_pr__res_xhigh_po_1p41 L=14.1 mult=1 m=1
XRA[26] res[26] res[27] avss sky130_fd_pr__res_xhigh_po_1p41 L=14.1 mult=1 m=1
XRA[25] res[25] res[26] avss sky130_fd_pr__res_xhigh_po_1p41 L=14.1 mult=1 m=1
XRA[24] res[24] res[25] avss sky130_fd_pr__res_xhigh_po_1p41 L=14.1 mult=1 m=1
XRA[23] res[23] res[24] avss sky130_fd_pr__res_xhigh_po_1p41 L=14.1 mult=1 m=1
XRA[22] res[22] res[23] avss sky130_fd_pr__res_xhigh_po_1p41 L=14.1 mult=1 m=1
XRA[21] res[21] res[22] avss sky130_fd_pr__res_xhigh_po_1p41 L=14.1 mult=1 m=1
XRA[20] res[20] res[21] avss sky130_fd_pr__res_xhigh_po_1p41 L=14.1 mult=1 m=1
XRA[19] res[19] res[20] avss sky130_fd_pr__res_xhigh_po_1p41 L=14.1 mult=1 m=1
XRA[18] res[18] res[19] avss sky130_fd_pr__res_xhigh_po_1p41 L=14.1 mult=1 m=1
XRA[17] res[17] res[18] avss sky130_fd_pr__res_xhigh_po_1p41 L=14.1 mult=1 m=1
XRA[16] res[16] res[17] avss sky130_fd_pr__res_xhigh_po_1p41 L=14.1 mult=1 m=1
XRA[15] res[15] res[16] avss sky130_fd_pr__res_xhigh_po_1p41 L=14.1 mult=1 m=1
XRA[14] res[14] res[15] avss sky130_fd_pr__res_xhigh_po_1p41 L=14.1 mult=1 m=1
XRA[13] res[13] res[14] avss sky130_fd_pr__res_xhigh_po_1p41 L=14.1 mult=1 m=1
XRA[12] res[12] res[13] avss sky130_fd_pr__res_xhigh_po_1p41 L=14.1 mult=1 m=1
XRA[11] res[11] res[12] avss sky130_fd_pr__res_xhigh_po_1p41 L=14.1 mult=1 m=1
XRA[10] res[10] res[11] avss sky130_fd_pr__res_xhigh_po_1p41 L=14.1 mult=1 m=1
XRA[9] res[9] res[10] avss sky130_fd_pr__res_xhigh_po_1p41 L=14.1 mult=1 m=1
XRA[8] res[8] res[9] avss sky130_fd_pr__res_xhigh_po_1p41 L=14.1 mult=1 m=1
XRA[7] res[7] res[8] avss sky130_fd_pr__res_xhigh_po_1p41 L=14.1 mult=1 m=1
XRA[6] res[6] res[7] avss sky130_fd_pr__res_xhigh_po_1p41 L=14.1 mult=1 m=1
XRA[5] res[5] res[6] avss sky130_fd_pr__res_xhigh_po_1p41 L=14.1 mult=1 m=1
XRA[4] res[4] res[5] avss sky130_fd_pr__res_xhigh_po_1p41 L=14.1 mult=1 m=1
XRA[3] res[3] res[4] avss sky130_fd_pr__res_xhigh_po_1p41 L=14.1 mult=1 m=1
XRA[2] res[2] res[3] avss sky130_fd_pr__res_xhigh_po_1p41 L=14.1 mult=1 m=1
XRA[1] res[1] res[2] avss sky130_fd_pr__res_xhigh_po_1p41 L=14.1 mult=1 m=1
XRA[0] res[0] res[1] avss sky130_fd_pr__res_xhigh_po_1p41 L=14.1 mult=1 m=1
XR1 res[29] out_1111 avss sky130_fd_pr__res_xhigh_po_1p41 L=14.1 mult=1 m=1
XR2 out_1111 out_1110 avss sky130_fd_pr__res_xhigh_po_1p41 L=14.1 mult=1 m=1
XR3 out_1110 out_1101 avss sky130_fd_pr__res_xhigh_po_1p41 L=14.1 mult=1 m=1
XR4 out_1101 out_1100 avss sky130_fd_pr__res_xhigh_po_1p41 L=14.1 mult=1 m=1
XR5 out_1100 out_1011 avss sky130_fd_pr__res_xhigh_po_1p41 L=14.1 mult=1 m=1
XR6 out_1011 out_1010 avss sky130_fd_pr__res_xhigh_po_1p41 L=14.1 mult=1 m=1
XR7 out_1010 out_1001 avss sky130_fd_pr__res_xhigh_po_1p41 L=14.1 mult=1 m=1
XR8 out_1001 out_1000 avss sky130_fd_pr__res_xhigh_po_1p41 L=14.1 mult=1 m=1
XR9 out_1000 out_0111 avss sky130_fd_pr__res_xhigh_po_1p41 L=14.1 mult=1 m=1
XR10 out_0111 net1 avss sky130_fd_pr__res_xhigh_po_1p41 L=14.1 mult=1 m=1
XR11 net1 out_0110 avss sky130_fd_pr__res_xhigh_po_1p41 L=14.1 mult=1 m=1
XR12 out_0110 out_0101 avss sky130_fd_pr__res_xhigh_po_1p41 L=14.1 mult=1 m=1
XR13 out_0101 net2 avss sky130_fd_pr__res_xhigh_po_1p41 L=14.1 mult=1 m=1
XR14 net2 out_0100 avss sky130_fd_pr__res_xhigh_po_1p41 L=14.1 mult=1 m=1
XR15 out_0100 out_0011 avss sky130_fd_pr__res_xhigh_po_1p41 L=14.1 mult=1 m=1
XR16 out_0011 net3 avss sky130_fd_pr__res_xhigh_po_1p41 L=14.1 mult=1 m=1
XR17 net3 out_0010 avss sky130_fd_pr__res_xhigh_po_1p41 L=14.1 mult=1 m=1
XR18 out_0010 net4 avss sky130_fd_pr__res_xhigh_po_1p41 L=14.1 mult=1 m=1
XR19 net4 out_0001 avss sky130_fd_pr__res_xhigh_po_1p41 L=14.1 mult=1 m=1
XR20 out_0001 net5 avss sky130_fd_pr__res_xhigh_po_1p41 L=14.1 mult=1 m=1
XR21 net5 out_0000 avss sky130_fd_pr__res_xhigh_po_1p41 L=14.1 mult=1 m=1
XR22 out_0000 res[30] avss sky130_fd_pr__res_xhigh_po_1p41 L=14.1 mult=1 m=1
XRB[85] res[115] res[116] avss sky130_fd_pr__res_xhigh_po_1p41 L=14.1 mult=1 m=1
XRB[84] res[114] res[115] avss sky130_fd_pr__res_xhigh_po_1p41 L=14.1 mult=1 m=1
XRB[83] res[113] res[114] avss sky130_fd_pr__res_xhigh_po_1p41 L=14.1 mult=1 m=1
XRB[82] res[112] res[113] avss sky130_fd_pr__res_xhigh_po_1p41 L=14.1 mult=1 m=1
XRB[81] res[111] res[112] avss sky130_fd_pr__res_xhigh_po_1p41 L=14.1 mult=1 m=1
XRB[80] res[110] res[111] avss sky130_fd_pr__res_xhigh_po_1p41 L=14.1 mult=1 m=1
XRB[79] res[109] res[110] avss sky130_fd_pr__res_xhigh_po_1p41 L=14.1 mult=1 m=1
XRB[78] res[108] res[109] avss sky130_fd_pr__res_xhigh_po_1p41 L=14.1 mult=1 m=1
XRB[77] res[107] res[108] avss sky130_fd_pr__res_xhigh_po_1p41 L=14.1 mult=1 m=1
XRB[76] res[106] res[107] avss sky130_fd_pr__res_xhigh_po_1p41 L=14.1 mult=1 m=1
XRB[75] res[105] res[106] avss sky130_fd_pr__res_xhigh_po_1p41 L=14.1 mult=1 m=1
XRB[74] res[104] res[105] avss sky130_fd_pr__res_xhigh_po_1p41 L=14.1 mult=1 m=1
XRB[73] res[103] res[104] avss sky130_fd_pr__res_xhigh_po_1p41 L=14.1 mult=1 m=1
XRB[72] res[102] res[103] avss sky130_fd_pr__res_xhigh_po_1p41 L=14.1 mult=1 m=1
XRB[71] res[101] res[102] avss sky130_fd_pr__res_xhigh_po_1p41 L=14.1 mult=1 m=1
XRB[70] res[100] res[101] avss sky130_fd_pr__res_xhigh_po_1p41 L=14.1 mult=1 m=1
XRB[69] res[99] res[100] avss sky130_fd_pr__res_xhigh_po_1p41 L=14.1 mult=1 m=1
XRB[68] res[98] res[99] avss sky130_fd_pr__res_xhigh_po_1p41 L=14.1 mult=1 m=1
XRB[67] res[97] res[98] avss sky130_fd_pr__res_xhigh_po_1p41 L=14.1 mult=1 m=1
XRB[66] res[96] res[97] avss sky130_fd_pr__res_xhigh_po_1p41 L=14.1 mult=1 m=1
XRB[65] res[95] res[96] avss sky130_fd_pr__res_xhigh_po_1p41 L=14.1 mult=1 m=1
XRB[64] res[94] res[95] avss sky130_fd_pr__res_xhigh_po_1p41 L=14.1 mult=1 m=1
XRB[63] res[93] res[94] avss sky130_fd_pr__res_xhigh_po_1p41 L=14.1 mult=1 m=1
XRB[62] res[92] res[93] avss sky130_fd_pr__res_xhigh_po_1p41 L=14.1 mult=1 m=1
XRB[61] res[91] res[92] avss sky130_fd_pr__res_xhigh_po_1p41 L=14.1 mult=1 m=1
XRB[60] res[90] res[91] avss sky130_fd_pr__res_xhigh_po_1p41 L=14.1 mult=1 m=1
XRB[59] res[89] res[90] avss sky130_fd_pr__res_xhigh_po_1p41 L=14.1 mult=1 m=1
XRB[58] res[88] res[89] avss sky130_fd_pr__res_xhigh_po_1p41 L=14.1 mult=1 m=1
XRB[57] res[87] res[88] avss sky130_fd_pr__res_xhigh_po_1p41 L=14.1 mult=1 m=1
XRB[56] res[86] res[87] avss sky130_fd_pr__res_xhigh_po_1p41 L=14.1 mult=1 m=1
XRB[55] res[85] res[86] avss sky130_fd_pr__res_xhigh_po_1p41 L=14.1 mult=1 m=1
XRB[54] res[84] res[85] avss sky130_fd_pr__res_xhigh_po_1p41 L=14.1 mult=1 m=1
XRB[53] res[83] res[84] avss sky130_fd_pr__res_xhigh_po_1p41 L=14.1 mult=1 m=1
XRB[52] res[82] res[83] avss sky130_fd_pr__res_xhigh_po_1p41 L=14.1 mult=1 m=1
XRB[51] res[81] res[82] avss sky130_fd_pr__res_xhigh_po_1p41 L=14.1 mult=1 m=1
XRB[50] res[80] res[81] avss sky130_fd_pr__res_xhigh_po_1p41 L=14.1 mult=1 m=1
XRB[49] res[79] res[80] avss sky130_fd_pr__res_xhigh_po_1p41 L=14.1 mult=1 m=1
XRB[48] res[78] res[79] avss sky130_fd_pr__res_xhigh_po_1p41 L=14.1 mult=1 m=1
XRB[47] res[77] res[78] avss sky130_fd_pr__res_xhigh_po_1p41 L=14.1 mult=1 m=1
XRB[46] res[76] res[77] avss sky130_fd_pr__res_xhigh_po_1p41 L=14.1 mult=1 m=1
XRB[45] res[75] res[76] avss sky130_fd_pr__res_xhigh_po_1p41 L=14.1 mult=1 m=1
XRB[44] res[74] res[75] avss sky130_fd_pr__res_xhigh_po_1p41 L=14.1 mult=1 m=1
XRB[43] res[73] res[74] avss sky130_fd_pr__res_xhigh_po_1p41 L=14.1 mult=1 m=1
XRB[42] res[72] res[73] avss sky130_fd_pr__res_xhigh_po_1p41 L=14.1 mult=1 m=1
XRB[41] res[71] res[72] avss sky130_fd_pr__res_xhigh_po_1p41 L=14.1 mult=1 m=1
XRB[40] res[70] res[71] avss sky130_fd_pr__res_xhigh_po_1p41 L=14.1 mult=1 m=1
XRB[39] res[69] res[70] avss sky130_fd_pr__res_xhigh_po_1p41 L=14.1 mult=1 m=1
XRB[38] res[68] res[69] avss sky130_fd_pr__res_xhigh_po_1p41 L=14.1 mult=1 m=1
XRB[37] res[67] res[68] avss sky130_fd_pr__res_xhigh_po_1p41 L=14.1 mult=1 m=1
XRB[36] res[66] res[67] avss sky130_fd_pr__res_xhigh_po_1p41 L=14.1 mult=1 m=1
XRB[35] res[65] res[66] avss sky130_fd_pr__res_xhigh_po_1p41 L=14.1 mult=1 m=1
XRB[34] res[64] res[65] avss sky130_fd_pr__res_xhigh_po_1p41 L=14.1 mult=1 m=1
XRB[33] res[63] res[64] avss sky130_fd_pr__res_xhigh_po_1p41 L=14.1 mult=1 m=1
XRB[32] res[62] res[63] avss sky130_fd_pr__res_xhigh_po_1p41 L=14.1 mult=1 m=1
XRB[31] res[61] res[62] avss sky130_fd_pr__res_xhigh_po_1p41 L=14.1 mult=1 m=1
XRB[30] res[60] res[61] avss sky130_fd_pr__res_xhigh_po_1p41 L=14.1 mult=1 m=1
XRB[29] res[59] res[60] avss sky130_fd_pr__res_xhigh_po_1p41 L=14.1 mult=1 m=1
XRB[28] res[58] res[59] avss sky130_fd_pr__res_xhigh_po_1p41 L=14.1 mult=1 m=1
XRB[27] res[57] res[58] avss sky130_fd_pr__res_xhigh_po_1p41 L=14.1 mult=1 m=1
XRB[26] res[56] res[57] avss sky130_fd_pr__res_xhigh_po_1p41 L=14.1 mult=1 m=1
XRB[25] res[55] res[56] avss sky130_fd_pr__res_xhigh_po_1p41 L=14.1 mult=1 m=1
XRB[24] res[54] res[55] avss sky130_fd_pr__res_xhigh_po_1p41 L=14.1 mult=1 m=1
XRB[23] res[53] res[54] avss sky130_fd_pr__res_xhigh_po_1p41 L=14.1 mult=1 m=1
XRB[22] res[52] res[53] avss sky130_fd_pr__res_xhigh_po_1p41 L=14.1 mult=1 m=1
XRB[21] res[51] res[52] avss sky130_fd_pr__res_xhigh_po_1p41 L=14.1 mult=1 m=1
XRB[20] res[50] res[51] avss sky130_fd_pr__res_xhigh_po_1p41 L=14.1 mult=1 m=1
XRB[19] res[49] res[50] avss sky130_fd_pr__res_xhigh_po_1p41 L=14.1 mult=1 m=1
XRB[18] res[48] res[49] avss sky130_fd_pr__res_xhigh_po_1p41 L=14.1 mult=1 m=1
XRB[17] res[47] res[48] avss sky130_fd_pr__res_xhigh_po_1p41 L=14.1 mult=1 m=1
XRB[16] res[46] res[47] avss sky130_fd_pr__res_xhigh_po_1p41 L=14.1 mult=1 m=1
XRB[15] res[45] res[46] avss sky130_fd_pr__res_xhigh_po_1p41 L=14.1 mult=1 m=1
XRB[14] res[44] res[45] avss sky130_fd_pr__res_xhigh_po_1p41 L=14.1 mult=1 m=1
XRB[13] res[43] res[44] avss sky130_fd_pr__res_xhigh_po_1p41 L=14.1 mult=1 m=1
XRB[12] res[42] res[43] avss sky130_fd_pr__res_xhigh_po_1p41 L=14.1 mult=1 m=1
XRB[11] res[41] res[42] avss sky130_fd_pr__res_xhigh_po_1p41 L=14.1 mult=1 m=1
XRB[10] res[40] res[41] avss sky130_fd_pr__res_xhigh_po_1p41 L=14.1 mult=1 m=1
XRB[9] res[39] res[40] avss sky130_fd_pr__res_xhigh_po_1p41 L=14.1 mult=1 m=1
XRB[8] res[38] res[39] avss sky130_fd_pr__res_xhigh_po_1p41 L=14.1 mult=1 m=1
XRB[7] res[37] res[38] avss sky130_fd_pr__res_xhigh_po_1p41 L=14.1 mult=1 m=1
XRB[6] res[36] res[37] avss sky130_fd_pr__res_xhigh_po_1p41 L=14.1 mult=1 m=1
XRB[5] res[35] res[36] avss sky130_fd_pr__res_xhigh_po_1p41 L=14.1 mult=1 m=1
XRB[4] res[34] res[35] avss sky130_fd_pr__res_xhigh_po_1p41 L=14.1 mult=1 m=1
XRB[3] res[33] res[34] avss sky130_fd_pr__res_xhigh_po_1p41 L=14.1 mult=1 m=1
XRB[2] res[32] res[33] avss sky130_fd_pr__res_xhigh_po_1p41 L=14.1 mult=1 m=1
XRB[1] res[31] res[32] avss sky130_fd_pr__res_xhigh_po_1p41 L=14.1 mult=1 m=1
XRB[0] res[30] res[31] avss sky130_fd_pr__res_xhigh_po_1p41 L=14.1 mult=1 m=1
XR23 res[116] avdd avss sky130_fd_pr__res_xhigh_po_1p41 L=14.1 mult=1 m=1
XRdummy1 avss avss avss sky130_fd_pr__res_xhigh_po_1p41 L=14.1 mult=6 m=6
XRdummy2 avss avss avss sky130_fd_pr__res_xhigh_po_1p41 L=1.41 mult=96 m=96
XD1 avss ena sky130_fd_pr__diode_pw2nd_05v5 area=3.15e11 perim=4e6
.ends


* expanding   symbol:  ov_level_shifter.sym # of pins=7
** sym_path: /home/tim/gits/chipalooza_projects_redef/dependencies/sky130_vbl_ip__overvoltage/xschem/ov_level_shifter.sym
** sch_path: /home/tim/gits/chipalooza_projects_redef/dependencies/sky130_vbl_ip__overvoltage/xschem/ov_level_shifter.sch
.subckt ov_level_shifter avdd dvdd in out out_b avss dvss
*.PININFO avdd:B out_b:O out:O avss:B dvdd:B in:I dvss:B
XM1 in_b in dvss dvss sky130_fd_pr__nfet_01v8 L=3 W=1 nf=1 m=1
XM2 in_b in dvdd dvdd sky130_fd_pr__pfet_01v8 L=3 W=1 nf=1 m=1
XM3 out_b out avdd avdd sky130_fd_pr__pfet_g5v0d10v5 L=3 W=1 nf=1 m=1
XM4 out out_b avdd avdd sky130_fd_pr__pfet_g5v0d10v5 L=3 W=1 nf=1 m=1
XM8 out in_b avss avss sky130_fd_pr__nfet_g5v0d10v5 L=3 W=2 nf=1 m=1
XM7 out_b in avss avss sky130_fd_pr__nfet_g5v0d10v5 L=3 W=2 nf=1 m=1
XD3 dvss in sky130_fd_pr__diode_pw2nd_05v5 area=0.315e12 perim=4e6
.ends


* expanding   symbol:  trans_gate.sym # of pins=6
** sym_path: /home/tim/gits/chipalooza_projects_redef/dependencies/sky130_vbl_ip__overvoltage/xschem/trans_gate.sym
** sch_path: /home/tim/gits/chipalooza_projects_redef/dependencies/sky130_vbl_ip__overvoltage/xschem/trans_gate.sch
.subckt trans_gate in ena_b ena avdd vss out
*.PININFO avdd:B vss:B ena:I ena_b:I in:I out:O
XM1 in ena out vss sky130_fd_pr__nfet_g5v0d10v5 L=5 W=1 nf=1 m=1
XM2 in ena_b out avdd sky130_fd_pr__pfet_g5v0d10v5 L=5 W=6 nf=1 m=1
.ends


* expanding   symbol:  trans_gate_mux.sym # of pins=6
** sym_path: /home/tim/gits/chipalooza_projects_redef/dependencies/sky130_vbl_ip__overvoltage/xschem/trans_gate_mux.sym
** sch_path: /home/tim/gits/chipalooza_projects_redef/dependencies/sky130_vbl_ip__overvoltage/xschem/trans_gate_mux.sch
.subckt trans_gate_mux in ena_b ena avdd vss out
*.PININFO avdd:B vss:B ena:I ena_b:I in:I out:O
XM1 in ena out vss sky130_fd_pr__nfet_g5v0d10v5 L=3 W=1 nf=1 m=1
XM2 in ena_b out avdd sky130_fd_pr__pfet_g5v0d10v5 L=3 W=1 nf=1 m=1
.ends

.end
